US06699904B2
1H NMR (400 MHz, CDCl3) δ8.16 (d, 2H), 7.35 (d, 2H), 5.43 (s, 1H), 3.54 (m, 2H), 2.93 (t, 2H), 2.12 (t, 2H), 1.57 (m, 3H), 1.26 (m, 5H), 0.86 (t, 3H). 10% Palladium on carbon (380 mg, 10 wt %) was added to a solution of heptanoic acid [2-(4-nitro-phenyl)-ethyl]-amide (3.80 g, 13.6 mmol) and methanol (80 mL) in a Parr bottle and the resulting mixture hydrogenated at 55 psi for 4 h. The reaction mixture was filtered through a plug of Celite and the Celite plug washed thoroughly with ethyl acetate. The combined filtrates were concentrated under reduced pressure to provide 3.24 g (96%) of heptanoic acid [2-(4-amino-phenyl)-ethyl]-amide as an off-white solid.

reactant | heptanoic acid [2-(4-nitro-phenyl)-ethyl]-amide | 13.6 mmol, 3.80 g | [N+](=O)([O-])C1=CC=C(C=C1)CCNC(CCCCCC)=O | C15H22N2O3
catalyst | Palladium on carbon | 380 mg | [Pd] | Pd
solvent | methanol | 80 mL | CO | CH4O
product | heptanoic acid [2-(4-amino-phenyl)-ethyl]-amide | 3.24 g, 96% | NC1=CC=C(C=C1)CCNC(CCCCCC)=O | C15H24N2O
